US07601844B2
(S)-4-(4-chlorophenyl)-3,3-dimethylpiperidin-4-ol (100 mg, 0.417 mmol), (R)-2-(tert-butoxycarbonyl(methyl)amino)-3-methylbutanoic acid (116 mg, 0.501 mmol), HOBT (77 mg, 0.501 mmol), EDC (96 mg, 0.501 mmol) and triethylamine (0.116 mL, 0.834 mmol) were mixed in methylene chloride (3 mL) at 25° C. with stirring. The reaction was stirred for 20 hours then washed with sat'd sodium bicarbonate. The methylene chloride layer was dried over sodium sulfate and concentrated in vacuo to give a white glass which was purified over silica gel (9:1 to 3:1 to 1:1 Hexanes/EtOAc) to obtain tert-butyl (R)-1-((S)-4-(4-chlorophenyl)-4-hydroxy-3,3-dimethylpiperidin-1-yl)-3-methyl-1-oxobutan-2-yl(methyl)carbamate (190 mg, 0.417 mmol, 100% yield) as a white glass. MS found: (M+H)+=453.15.

reactant | (S)-4-(4-chlorophenyl)-3,3-dimethylpiperidin-4-ol | 0.417 mmol, 100 mg | ClC1=CC=C(C=C1)[C@@]1(C(CNCC1)(C)C)O | C13H18ClNO
reactant | (R)-2-(tert-butoxycarbonyl(methyl)amino)-3-methylbutanoic acid | 0.501 mmol, 116 mg | C(C)(C)(C)OC(=O)N([C@@H](C(=O)O)C(C)C)C | C11H21NO4
reactant | HOBT | 0.501 mmol, 77 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 0.501 mmol, 96 mg
reactant | triethylamine | 0.834 mmol, 0.116 mL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 3 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl (R)-1-((S)-4-(4-chlorophenyl)-4-hydroxy-3,3-dimethylpiperidin-1-yl)-3-methyl-1-oxobutan-2-yl(methyl)carbamate | 0.417 mmol, 190 mg, 100% yield | ClC1=CC=C(C=C1)[C@@]1(C(CN(CC1)C([C@@H](C(C)C)N(C(OC(C)(C)C)=O)C)=O)(C)C)O | C24H37ClN2O4
